US05391556
4-Amino-N-[1-(1H-benzimidazol-5-yl-methyl)-2-(4-propylpiperidin-1-yl)-2-oxo-ethyl]-3,5-dichlorobenzenesulphonamide
Prepared from 4-amino-N-[1-((4-amino-3-nitro-phenyl)methyl)-2-(4-propyl-piperidin-1-yl)-2-oxo-ethyl]-3,5-dichloro-benzenesulphonamide and cyclising with formic acid in the presence of palladium/charcoal analogously to Example 1.

reactant | 4-amino-N-[1-((4-amino-3-nitro-phenyl)methyl)-2-(4-propyl-piperidin-1-yl)-2-oxo-ethyl]-3,5-dichloro-benzenesulphonamide | NC1=C(C=C(C=C1Cl)S(=O)(=O)NC(C(=O)N1CCC(CC1)CCC)CC1=CC(=C(C=C1)N)[N+](=O)[O-])Cl | C23H29Cl2N5O5S
reactant | formic acid | C(=O)O | CH2O2
catalyst | palladium/charcoal | [Pd] | Pd
product | 4-Amino-N-[1-(1H-benzimidazol-5-yl-methyl)-2-(4-propylpiperidin-1-yl)-2-oxo-ethyl]-3,5-dichlorobenzenesulphonamide | NC1=C(C=C(C=C1Cl)S(=O)(=O)NC(C(=O)N1CCC(CC1)CCC)CC1=CC2=C(NC=N2)C=C1)Cl | C24H29Cl2N5O3S
